US08669234B2
4-Methylmorpholine (31 μL, 0.28 mmol) was added to a suspension of {1-[2-(5-{4′-[3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-3H,1′H-[2,4]biimidazolyl-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (41.1 mg, 0.056 mmol) [prepared via reaction of 3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-2′,3′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-1′-carboxylic acid tert-butyl ester with HCl-solution] in dichloromethane (5 mL). Methyl chloroformate (16.5 μL, 0.21 mmol) was added to the resulting solution. After 20 minutes the solvent was removed in vacuo. The residue was taken into tetrahydrofuran (4 mL) and methanol (2 mL) and an aqueous solution of sodium hydroxide (2 N, 1 mL) was added. After 2 hours the organic solvents were removed in vacuo and the aqueous phase was decanted. The residue was dissolved in dimethylformamide (2 mL) and purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA). The product-containing fractions were combined and the solvent was removed by lyophilization to provide 3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl]-biphenyl-4-yl)-2′,3′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-1′-carboxylic acid methyl ester (7.5 mg)

reactant | 4-Methylmorpholine | 0.28 mmol, 31 μL | CN1CCOCC1 | C5H11NO
reactant | {1-[2-(5-{4′-[3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-3H,1′H-[2,4]biimidazolyl-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.056 mmol, 41.1 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CNC1)C(C(C(C)C)NC(=O)OC)=O)=O | C39H49N9O6
reactant | Methyl chloroformate | 0.21 mmol, 16.5 μL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl]-biphenyl-4-yl)-2′,3′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-1′-carboxylic acid methyl ester | 7.5 mg | COC(=O)N1CN(C(C1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)C(C(C(C)C)NC(=O)OC)=O | C41H51N9O8
